US07642263B2
5-[(3-{[(1S)-1-(Hydroxymethyl)propyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylic acid
Lithium hydroxide monohydrate (6 mg, 0.14 mmol) in water (1 mL) was added to a solution of methyl 5-[(3-{[(1S)-1-(hydroxymethyl)propyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylate (25 mg, 0.06 mmol) in THF (1 mL). The mixture was allowed to stir at RT for 16 hours. The THF was removed in vacuo and the resulting solution was partitioned between water (10 mL) and ethyl acetate (25 mL), the ethyl acetate layer was washed with brine (10 mL) and dried (MgSO4). The aqueous layer was then adjusted to pH 7 by addition of 1M hydrochloric acid and extracted with ethyl acetate (25 mL). The ethyl acetate layer was washed with brine (10 mL) and dried (MgSO4). The ethyl acetate extracts were combined and evaporated to give the required product (12 mg). m/z 428.44 (M+H)+

reactant | Lithium hydroxide monohydrate | 0.14 mmol, 6 mg | O.[OH-].[Li+]
reactant | methyl 5-[(3-{[(1S)-1-(hydroxymethyl)propyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylate | 0.06 mmol, 25 mg | OC[C@H](CC)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC=1N=CC(=NC1)C(=O)OC | C21H23N5O6
solvent | water | 1 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-[(3-{[(1S)-1-(Hydroxymethyl)propyl]oxy}-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylic acid | 12 mg | OC[C@H](CC)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC=1N=CC(=NC1)C(=O)O | C20H21N5O6
